US03962249
trans-1-(3-Phenylpropyl)-2,3-dimethyl-4-(2-furoyl)piperazine
The compound was obtained by following the same process as in Example 3 from a mixture of trans-1-(3-phenylpropyl)-2,3-dimethylpiperazine [b.p. 130° - 132°C (2 mmHg), dipicrate, m.p. 195° - 196°C], 2-furoyl chloride and benzene.

reactant | trans-1-(3-phenylpropyl)-2,3-dimethylpiperazine | C1(=CC=CC=C1)CCCN1[C@H]([C@@H](NCC1)C)C | C15H24N2
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | trans-1-(3-Phenylpropyl)-2,3-dimethyl-4-(2-furoyl)piperazine | C1(=CC=CC=C1)CCCN1[C@H]([C@@H](N(CC1)C(=O)C=1OC=CC1)C)C | C20H26N2O2
